US06734203B2
2-Methoxyethylamine (0.8 ml) was added to a solution of N-(3-chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)acetamide (1.0 g) in benzene (20 ml) and the mixture was stirred at room temperature for 1 hour. Water was added to the reaction solution and the mixture was extracted with chloroform. The organic layer was washed with water and brine and then dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was recrystallized from ethyl acetate to give N-[3-(2-methoxyethyl)amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl]acetamide (0.87 g) as a red powder.

reactant | 2-Methoxyethylamine | 0.8 ml | COCCN | C3H9NO
reactant | N-(3-chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)acetamide | 1.0 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)NC(C)=O | C12H8ClNO3
reactant | Water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | N-[3-(2-methoxyethyl)amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl]acetamide | 0.87 g | COCCNC1=C(C(C2=CC=CC=C2C1=O)=O)NC(C)=O | C15H16N2O4
